US08802678B2
A solution of 0.77 mL (1.3 mmol) of potassium tert-pentoxyde solution (1.7M in toluene) is added dropwise at room temperature to a stirred solution of 52 mg (1.27 mmol) of acetonitrile in 2.5 mL of tetrahydrofuran followed by dropwise addition of 0.19 g (0.44 mmol) of (4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}piperidin-1-yl)acetic acid ethyl ester in 1 mL of tetrahydrofuran. After 30 minutes at room temperature, the reaction mixture is diluted with 10 mL of an aqueous 0.2N aqueous hydrochloric acid solution and 50 mL of ethyl acetate forming an emulsion. The mixture is concentrated under reduced pressure and the product is purified over 10 g of silica gel (eluant dichloromethane/methanol 95/5). The oily product is dissolved in 2 mL of diethyl ether and acidified with a hydrochloric acid diethyl ether solution. The precipitate is filtered, washed with diethyl ether and dried under reduced pressure to give 30 mg (14%) of 3-oxo-4-(4-{2[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}piperidin-1-yl)butanenitrile, dihydrochloride.

reactant | potassium | 1.3 mmol, 1.7M, 0.77 mL | [K] | K
reactant | acetonitrile | 1.27 mmol, 52 mg | C(C)#N | C2H3N
reactant | (4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}piperidin-1-yl)acetic acid ethyl ester | 0.44 mmol, 0.19 g | C(C)OC(CN1CCC(CC1)CCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C22H32F3N3O2
reactant | hydrochloric acid | 0.2N | Cl | ClH
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-oxo-4-(4-{2[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}piperidin-1-yl)butanenitrile, dihydrochloride | 30 mg, 14% | Cl.Cl.O=C(CC#N)CN1CCC(CC1)CCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C22H29F3N4O.2ClH/c23-22(24,25)19-2-1-3-20(16-19)29-14-12-27(13-15-29)9-5-18-6-10-28(11-7-18)17-21(30)4-8-26;;/h1-3,16,18H,4-7,9-15,17H2;2*1H
